US06265398B1
5-Chloro-6-ethyl-4-(6-hydroxytetralin-2-ylamino)pyrimidine
A solution of 5.8 g (18 mmol) of 5-chloro6-ethyl4-(6-methoxytetralin-2-ylamino)pyrimidine in 22 ml of 48% HBr and 4.5 ml of acetic acid was heated for 4 hours at 110° C. After the mixture had cooled, it was brought to pH=8 with sodium hydroxide solution and extracted with dichloromethane. After the dichloromethane phase had been dried, concentrated and washed with toluene, 4.8 g (88% of theory) of colorless crystals were obtained (m.p. 178° C.).

reactant | 5-chloro6-ethyl4-(6-methoxytetralin-2-ylamino)pyrimidine | 18 mmol, 5.8 g | ClC=1C(=NC=NC1CC)NC1CC2=CC=C(C=C2CC1)OC | C17H20ClN3O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | HBr | 22 ml | Br | BrH
solvent | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
product | 5-Chloro-6-ethyl-4-(6-hydroxytetralin-2-ylamino)pyrimidine | ClC=1C(=NC=NC1CC)NC1CC2=CC=C(C=C2CC1)O | C16H18ClN3O
